US07888349B2
tert-Butyl 3-[(7-benzyloxy-3-nitroquinolin-4-yl)amino]propylcarbamate (60.0 g, 132.6 mmol) was dissolved in ethyl acetate (400 mL) and transferred to a Parr hydrogenation vessel charged with 5% platinum on carbon (15.6 g, 80 mmol, 0.03 eq). The vessel was purged with nitrogen gas and placed under hydrogen pressure (50 psi, 3.45×105 Pa) overnight. The catalyst was removed by filtration through a layer of CELITE filter aid, and the filter cake was rinsed with methanol and dichloromethane. The filtrate was concentrated under reduced pressure to provide 52.4 g of tert-butyl 3-[(3-amino-7-benzyloxy-quinolin-4-yl)amino]propylcarbamate.

reactant | tert-Butyl 3-[(7-benzyloxy-3-nitroquinolin-4-yl)amino]propylcarbamate | 132.6 mmol, 60.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCNC(OC(C)(C)C)=O | C24H28N4O5
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum on carbon | 80 mmol, 15.6 g, 0.03 eq | [Pt] | Pt
product | tert-butyl 3-[(3-amino-7-benzyloxy-quinolin-4-yl)amino]propylcarbamate | 52.4 g | NC=1C=NC2=CC(=CC=C2C1NCCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C24H30N4O3
